* Testbench for PAD BBC1FC

** Model Library 
.LIB /PDK/tech_svn/xfab/XKIT/xt018/synopsys/v11_0/hspice/v11_0_1/lp5mos/config.lib default
.LIB /PDK/tech_svn/xfab/XKIT/xt018/synopsys/v11_0/hspice/v11_0_1/lp5mos/xt018.lib tm

**Parameters
.PARAM vdd_val=5.0
.PARAM cpad_val=50p
.PARAM cy_val=1p

** Include the PAD subckt
.INCLUDE /home/nfs1/gits/gpio/netlists/BBC1FC.sp

** Instantiate the PAD
XIPAD nsda agnd agnd agnd PAD PI PO avdd5 avdd5 avdd5 Y BBC1FC 

clpad	PAD 	agnd cpad_val 
cly   	Y 	agnd cy_val 

* Electrical source definitions
vdd5 avdd5 agnd vdd_val
vgnd agnd 0 0
* pulse(V1 V2 TD TR TF PW PER)
vsda nsda agnd pulse(0 vdd_val 50n 5n 5n 200n 400n)

* Simulation options & commands
.tran 0.1n 650n
.plot tran v(PAD) v(Y) v(nsda)
*.print tran v(1) v(2) v(3) v(4)
.option eps=0.5e-3 tnom=50 list node
.end

